* Subcircuit sipo
.subckt sipo net-_u101-pad1_ net-_u101-pad2_ net-_u101-pad3_ net-_u101-pad4_ net-_u101-pad5_ net-_u101-pad6_ net-_u101-pad7_ unconnected-_u101-pad8_ net-_u101-pad9_ net-_u101-pad10_ net-_u101-pad11_ net-_u101-pad12_ net-_u101-pad13_ net-_u101-pad14_ net-_u101-pad15_ unconnected-_u101-pad16_ 
.title kicad schematic
* u103 net-_u101-pad9_ net-_u103-pad2_ d_inverter
* u102 net-_u101-pad7_ net-_u102-pad2_ d_inverter
* u107 net-_u103-pad2_ net-_u107-pad2_ d_inverter
* u110 net-_u106-pad2_ net-_u110-pad2_ d_inverter
* u106 net-_u102-pad2_ net-_u106-pad2_ d_inverter
* u104 net-_u101-pad6_ net-_u104-pad2_ d_inverter
* u118 net-_u113-pad5_ net-_u107-pad2_ net-_u104-pad2_ net-_u123-pad1_ net-_u118-pad5_ dbar_ff
* u122 net-_u122-pad1_ net-_u101-pad4_ d_inverter
* u123 net-_u123-pad1_ net-_u122-pad1_ d_inverter
* u117 net-_u117-pad1_ net-_u116-pad1_ d_inverter
* u113 net-_u110-pad2_ net-_u107-pad2_ net-_u104-pad2_ net-_u117-pad1_ net-_u113-pad5_ dbar_ff
* u116 net-_u116-pad1_ net-_u101-pad5_ d_inverter
* u124 net-_u118-pad5_ net-_u107-pad2_ net-_u104-pad2_ net-_u129-pad1_ net-_u124-pad5_ dbar_ff
* u129 net-_u129-pad1_ net-_u128-pad1_ d_inverter
* u134 net-_u134-pad1_ net-_u101-pad10_ d_inverter
* u135 net-_u135-pad1_ net-_u134-pad1_ d_inverter
* u130 net-_u124-pad5_ net-_u107-pad2_ net-_u104-pad2_ net-_u135-pad1_ unconnected-_u130-pad5_ dbar_ff
* u128 net-_u128-pad1_ net-_u101-pad3_ d_inverter
* u114 net-_u111-pad2_ net-_u114-pad2_ d_inverter
* u109 net-_u101-pad14_ net-_u109-pad2_ d_inverter
* u105 net-_u101-pad15_ net-_u105-pad2_ d_inverter
* u111 net-_u105-pad2_ net-_u111-pad2_ d_inverter
* u112 net-_u108-pad2_ net-_u112-pad2_ d_inverter
* u108 net-_u101-pad1_ net-_u108-pad2_ d_inverter
* u115 net-_u114-pad2_ net-_u112-pad2_ net-_u109-pad2_ net-_u120-pad1_ net-_u115-pad5_ dbar_ff
* u120 net-_u120-pad1_ net-_u119-pad1_ d_inverter
* u119 net-_u119-pad1_ net-_u101-pad13_ d_inverter
* u126 net-_u126-pad1_ net-_u125-pad1_ d_inverter
* u121 net-_u115-pad5_ net-_u112-pad2_ net-_u109-pad2_ net-_u126-pad1_ net-_u121-pad5_ dbar_ff
* u125 net-_u125-pad1_ net-_u101-pad12_ d_inverter
* u132 net-_u132-pad1_ net-_u131-pad1_ d_inverter
* u131 net-_u131-pad1_ net-_u101-pad11_ d_inverter
* u127 net-_u121-pad5_ net-_u112-pad2_ net-_u109-pad2_ net-_u132-pad1_ net-_u127-pad5_ dbar_ff
* u137 net-_u137-pad1_ net-_u136-pad1_ d_inverter
* u136 net-_u136-pad1_ net-_u101-pad2_ d_inverter
* u133 net-_u127-pad5_ net-_u112-pad2_ net-_u109-pad2_ net-_u137-pad1_ unconnected-_u133-pad5_ dbar_ff
a1 net-_u101-pad9_ net-_u103-pad2_ u103
a2 net-_u101-pad7_ net-_u102-pad2_ u102
a3 net-_u103-pad2_ net-_u107-pad2_ u107
a4 net-_u106-pad2_ net-_u110-pad2_ u110
a5 net-_u102-pad2_ net-_u106-pad2_ u106
a6 net-_u101-pad6_ net-_u104-pad2_ u104
a7 [net-_u113-pad5_ ] [net-_u107-pad2_ ] [net-_u104-pad2_ ] [net-_u123-pad1_ ] [net-_u118-pad5_ ] u118
a8 net-_u122-pad1_ net-_u101-pad4_ u122
a9 net-_u123-pad1_ net-_u122-pad1_ u123
a10 net-_u117-pad1_ net-_u116-pad1_ u117
a11 [net-_u110-pad2_ ] [net-_u107-pad2_ ] [net-_u104-pad2_ ] [net-_u117-pad1_ ] [net-_u113-pad5_ ] u113
a12 net-_u116-pad1_ net-_u101-pad5_ u116
a13 [net-_u118-pad5_ ] [net-_u107-pad2_ ] [net-_u104-pad2_ ] [net-_u129-pad1_ ] [net-_u124-pad5_ ] u124
a14 net-_u129-pad1_ net-_u128-pad1_ u129
a15 net-_u134-pad1_ net-_u101-pad10_ u134
a16 net-_u135-pad1_ net-_u134-pad1_ u135
a17 [net-_u124-pad5_ ] [net-_u107-pad2_ ] [net-_u104-pad2_ ] [net-_u135-pad1_ ] [unconnected-_u130-pad5_ ] u130
a18 net-_u128-pad1_ net-_u101-pad3_ u128
a19 net-_u111-pad2_ net-_u114-pad2_ u114
a20 net-_u101-pad14_ net-_u109-pad2_ u109
a21 net-_u101-pad15_ net-_u105-pad2_ u105
a22 net-_u105-pad2_ net-_u111-pad2_ u111
a23 net-_u108-pad2_ net-_u112-pad2_ u112
a24 net-_u101-pad1_ net-_u108-pad2_ u108
a25 [net-_u114-pad2_ ] [net-_u112-pad2_ ] [net-_u109-pad2_ ] [net-_u120-pad1_ ] [net-_u115-pad5_ ] u115
a26 net-_u120-pad1_ net-_u119-pad1_ u120
a27 net-_u119-pad1_ net-_u101-pad13_ u119
a28 net-_u126-pad1_ net-_u125-pad1_ u126
a29 [net-_u115-pad5_ ] [net-_u112-pad2_ ] [net-_u109-pad2_ ] [net-_u126-pad1_ ] [net-_u121-pad5_ ] u121
a30 net-_u125-pad1_ net-_u101-pad12_ u125
a31 net-_u132-pad1_ net-_u131-pad1_ u132
a32 net-_u131-pad1_ net-_u101-pad11_ u131
a33 [net-_u121-pad5_ ] [net-_u112-pad2_ ] [net-_u109-pad2_ ] [net-_u132-pad1_ ] [net-_u127-pad5_ ] u127
a34 net-_u137-pad1_ net-_u136-pad1_ u137
a35 net-_u136-pad1_ net-_u101-pad2_ u136
a36 [net-_u127-pad5_ ] [net-_u112-pad2_ ] [net-_u109-pad2_ ] [net-_u137-pad1_ ] [unconnected-_u133-pad5_ ] u133
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u103 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u102 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u107 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u110 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u106 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u104 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             dbar_ff, Ngspice Name: dbar_ff
.model u118 dbar_ff(rise_delay=10n fall_delay=10n10n input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u122 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u123 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u117 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             dbar_ff, Ngspice Name: dbar_ff
.model u113 dbar_ff(rise_delay=10n fall_delay=10n input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u116 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             dbar_ff, Ngspice Name: dbar_ff
.model u124 dbar_ff(rise_delay=10n fall_delay=10n input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u129 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u134 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u135 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             dbar_ff, Ngspice Name: dbar_ff
.model u130 dbar_ff(rise_delay=10n fall_delay=10n input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u128 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u114 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u109 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u105 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u111 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u112 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u108 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             dbar_ff, Ngspice Name: dbar_ff
.model u115 dbar_ff(rise_delay=10n fall_delay=10n input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u120 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u119 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u126 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             dbar_ff, Ngspice Name: dbar_ff
.model u121 dbar_ff(rise_delay=10n fall_delay=10n input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u125 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u132 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u131 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             dbar_ff, Ngspice Name: dbar_ff
.model u127 dbar_ff(rise_delay=10n fall_delay=10n input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u137 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u136 d_inverter(rise_delay=5n fall_delay=5n input_load=1.0e-12 )
* Schematic Name:                             dbar_ff, Ngspice Name: dbar_ff
.model u133 dbar_ff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
* Control Statements

.ends sipo