.title kicad schematic

* u1 net-_e_core1-pad3_ net-_e_core1-pad4_ net-_e_minus1-pad2_ net-_r3-pad2_ net-_r4-pad2_ net-_r8-pad1_ net-_r6-pad1_ port
r1 gnd net-_e_core1-pad3_ 1g
r2 net-_e_core1-pad4_ gnd 1g
e_core1 net-_e_core1-pad1_ gnd net-_e_core1-pad3_ net-_e_core1-pad4_ 100000
r3 gnd net-_r3-pad2_ 1g
r4 gnd net-_r4-pad2_ 1g
c1 net-_c1-pad1_ gnd 0.187p
r5 net-_c1-pad1_ net-_e_core1-pad1_ 1k
e_plus1 net-_e_plus1-pad1_ net-_e_minus1-pad2_ net-_e_minus1-pad4_ gnd 0.5
e_minus1 net-_e_minus1-pad1_ net-_e_minus1-pad2_ gnd net-_e_minus1-pad4_ 0.5
r7 gnd net-_e_minus1-pad2_ 1g
r8 net-_r8-pad1_ net-_e_plus1-pad1_ 50
r6 net-_r6-pad1_ net-_e_minus1-pad1_ 50
.tran 0.1e-09 100e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
